US04837238
Ethyl 2-acetyl-3-(4-pyrazolylamino)acrylate (D13)
A solution of 4-nitropyrazole (5.6 g, 50 mmol)in ethanol (200 ml) was hydrogenated over 10% palladium on charcoal (0.5 g) at room temperature and pressure for 3.5 h. The catalyst was filtered off and ethyl 2-acetyl-3-ethoxyacrylate (9.3 g, 50 mmol) was added to the solution under nitrogen. After 5 min, the solution was evaporated in vacuo and the residual solid was recrystallised from ethyl acetate/pentane (charcoal) to give the title compound (7.7 g, 69%), m.p. 126°-128° C. Found: C, 49.96; H, 6.28; N, 17.34%. C10H13N3O3.H2O requires C, 49.78; H, 6.27; N, 17.41%.

reactant | 4-nitropyrazole | 50 mmol, 5.6 g | [N+](=O)([O-])C=1C=NNC1 | C3H3N3O2
reactant | ethyl 2-acetyl-3-ethoxyacrylate | 50 mmol, 9.3 g | C(C)(=O)C(C(=O)OCC)=COCC | C9H14O4
solvent | ethanol | 200 ml | C(C)O | C2H6O
catalyst | palladium on charcoal | 0.5 g | [Pd] | Pd
product | Ethyl 2-acetyl-3-(4-pyrazolylamino)acrylate | 7.7 g, 69% | C(C)(=O)C(C(=O)OCC)=CNC=1C=NNC1 | C10H13N3O3
